US04625036
Bromine (10 g.) was added dropwise to a stirred solution of 4-chlorobutyrophenone (9.7 g.) in dichloromethane (25 ml.), and the mixture was stirred for a further 15 minutes, then evaporated to dryness under reduced pressure. The residue was dissolved in ethyl acetate, and the solution was washed twice with water then with brine, dried and evaporated to dryness to give α-bromo-4-chlorobutyrophenone as an oil.

reactant | Bromine | 10 g | BrBr | Br2
reactant | 4-chlorobutyrophenone | 9.7 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | α-bromo-4-chlorobutyrophenone | BrC(C(=O)C1=CC=CC=C1)CCCl | C10H10BrClO
